US04168602
1. Preparation of 1,2-bis(β-cyanoethoxyethane) (NC--(CH2)2O--(CH2)2 --O--(CH2)2 --CN)
To a 5 liter double walled (for water cooling) glass reactor with a bottom drain and stopcock were charged 930 grams (15 moles) of ethylene glycol and 45.6 grams of 40% aqueous KOH solution. Some 1620 grams (30.0 moles) of acrylonitrile (NC--CH=CH2) were then added dropwise, with stirring, at such a rate that the temperature was kept below 35° C. After the addition was completed the mixture was stirred an additional hour and then allowed to stand overnight. The mixture was then neutralized to a pH of 7 by the addition of 6 molar HCL. After washing was saturated NaCl solution three times, the product was separated from the aqueous layer, dried over CaCl2 and passed through an Al2O3 column to insure that all basic materials had been removed. The yield obtained was 90% of theoretical.

reactant | ethylene glycol | 15 moles, 930 grams | C(CO)O | C2H6O2
reactant | KOH | 45.6 grams | [OH-].[K+]
reactant | acrylonitrile | 30.0 moles, 1620 grams | C(C=C)#N | C3H3N
solvent | water | O | H2O
product | 1,2-bis(β-cyanoethoxyethane) | C(COCCOCCC#N)C#N | C8H12N2O2
